US07402672B2
3-p-Tolylsulfanyl-1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid amide, Ia-20
Treat 1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid amide 6a-1 (1.0 equiv) in DMF with bis-(p-tolyl)disulfide (1.1 equiv) as described in General Synthetic Procedure IVb to provide Ia-20 as an ivory colored solid. 1H NMR (DMSO-d6) δ 12.42 (bs, 1H), 8.44 (dd, 1H, J=1.5, 4.5 Hz), 8.10 (bs, 1H), 7.91 (bs, 1H) overlapping with 7.86 (dd, 1H, J=1.5, 7.9 Hz), 7.28 (dd, 1H, J=3.7, 8.3 Hz), 7.00 (overlapping ds, 4H, J=12.5 Hz), 3.31 (s, 3H); MS Obs 284 (M+1).

reactant | 1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid amide | N1C(=CC2=NC=CC=C21)C(=O)N | C8H7N3O
reactant | bis-(p-tolyl)disulfide | 1.1 equiv | C1(=CC=C(C=C1)SSC1=CC=C(C=C1)C)C | C14H14S2
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-p-Tolylsulfanyl-1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid amide | C1(=CC=C(C=C1)SC1=C(NC=2C1=NC=CC2)C(=O)N)C | C15H13N3OS
